US04134983
A solution of 2[4-(2.3-epoxypropoxy)phenyl]-4-trifluoromethylimidazole (1 g) in isopropylamine (10 ml.) is heated 7 hours at reflux and then allowed to stand 16 hours at room temperature. The excess isopropylamine is removed by distillation at atmosphereic pressure and the residue is triturated with nitrometane to yield a solid. After filtration and recrystallization from acetonitrile, 0.6 g. of 2-[4-(3-isopropylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole is obtained, m.p. 173°-173.5° C.

reactant | 2[4-(2.3-epoxypropoxy)phenyl]-4-trifluoromethylimidazole | 1 g | O1C(COC2=CC=C(C=C2)C=2NC=C(N2)C(F)(F)F)C1 | C13H11F3N2O2
solvent | isopropylamine | 10 ml | C(C)(C)N | C3H9N
product | 2-[4-(3-isopropylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole | C(C)(C)NCC(COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F)O | C16H20F3N3O2
